US05530012
N-Ethyl-4-[(2-fluoro-5-methoxyphenyl)methyl]-1-piperidinecarboxamide
A magnetically stirred solution of 4-[(2-fluoro-5-methoxyphenyl)methyl]piperidine (0.895 g, 4.01 mmol) in anhydrous dichloromethane (15 mL) at 5° C. was treated dropwise with a solution of ethyl isocyanate (0.320 g, 4.41 mmol) in dry dichloromethane (5 mL). The solution was stirred 0.5 h at 5° C., allowed to warm to room temperature and stirred for 48 h. The solution was poured over ice (50g), and treated with water (200 mL) and dichloromethane (250 mL). The layers were separated, the aqueous phase was back-extracted with fresh dichloromethane (3×200 mL), and the combined organic portions were washed with 1N hydrochloric acid solution (350 mL), 5% sodium hydroxide solution (400 mL), water (400 mL), saturated brine (400 mL), dried is (K2CO3), filtered, and concentrated in vacuo. Drying (85° C.) in vacuo gave 1.08 g (92%) of the desired product as a clear oil: IR (film) 3346, 2930, 1622, 1592, 1538, 1498, 1274, 1252; 1214, 1036 cm-1 ; 1H NMR (CDCl3) δ6.90 (t, J=9.0 Hz, 1H), 6.69-6.60 (m, 2H), 4.50 (bt, J=4.7 Hz, 1H), 3.89 (bd, J=13.2 Hz, 2H), 3.74 (s, 3H), 3.27-3.17 (m, 2H), 2.67 (td, J=12.8, 2.4 Hz, 2H), 2.52 (dd, J=7.1, 1.1 Hz, 2H), 1.74-1.61 (m, 1H), 1.62 (bd, J=13.5 Hz, 2H), 1.18 (qd, J=12.0, 4.0 Hz, 2H), 1.10 (t, J=7.2 Hz, 3H); 13C NMR (CDCl3)δ57.7, 155.7 (d, J=237.1 Hz), 155.4 (d, J=1.7 Hz, 127.8 (d, J=18.0 Hz), 116.6 (d, J=5.1 Hz), 115.5 (d, J=24.7 Hz), 112.1 (d, J=8.0 Hz), 55.7, 44.1, 37.0, 36.2, 35.7, 31.7, 15.6; MS m/z 295 (M+ +1, free base).

reactant | 4-[(2-fluoro-5-methoxyphenyl)methyl]piperidine | 4.01 mmol, 0.895 g | FC1=C(C=C(C=C1)OC)CC1CCNCC1 | C13H18FNO
reactant | ethyl isocyanate | 4.41 mmol, 0.320 g | C(C)N=C=O | C3H5NO
reactant | water | 200 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | N-Ethyl-4-[(2-fluoro-5-methoxyphenyl)methyl]-1-piperidinecarboxamide | 1.08 g, 92% | C(C)NC(=O)N1CCC(CC1)CC1=C(C=CC(=C1)OC)F | C16H23FN2O2
